### PR TITLE
[Merged by Bors] - feat(SimpleGraph/Operations): add edge_comm and lt_sup_edge

### PR DESCRIPTION
**Pull request by jt496**
Co-authored-by: Lian Tattersall <lian.tattersall.20@alumni.ucl.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 1]
```diff
@@ -159,6 +162,9 @@ lemma edge_self_eq_bot : edge s s = ⊥ := by
 lemma sup_edge_self : G ⊔ edge s s = G := by
   rw [edge_self_eq_bot, sup_of_le_left bot_le]
 
+lemma lt_sup_edge (hne : s ≠ t) (hn : ¬G.Adj s t) : G < G ⊔ edge s t :=
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:165]:
```suggestion
lemma lt_sup_edge (hne : s ≠ t) (hn : ¬ G.Adj s t) : G < G ⊔ edge s t :=
```

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 2]
```diff
@@ -159,6 +162,9 @@ lemma edge_self_eq_bot : edge s s = ⊥ := by
...
+  left_lt_sup.2 fun h => hn <| h <| (edge_adj ..).mpr ⟨Or.inl ⟨rfl,rfl⟩, hne⟩
```
Comment (Rida-Hamadani) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:166]:
```suggestion
  left_lt_sup.2 fun h ↦ hn <| h <| (edge_adj ..).mpr ⟨Or.inl ⟨rfl, rfl⟩, hne⟩
```

**Review by Ruben-VandeVelde — APPROVED** [review]
lt_sup_edge seems pretty specific, but fine if you need it.

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
